US05374641
An appropriate amount of Raney nickel was suspended in 30 ml of saturated solution of ammonium and methanol, followed by addition of 5.75 g of 3-(4-methoxymethyloxyphenyl)-2-(3-pyridyl)propionitrile, and stirred for 64 hours under hydrogen atmosphere of 15 atm. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue obtained was subjected to chromatography on a silica gel column, which was then eluted with aqueous ammonia-methanol-chloroform (1:10:100 v/v), and from the eluted fraction was obtained 4.98 g of 3-(4-methoxymethyloxyphenyl)-2-(3-pyridyl)propylamine.

reactant | ammonium | [NH4+]
reactant | 3-(4-methoxymethyloxyphenyl)-2-(3-pyridyl)propionitrile | 5.75 g | COCOC1=CC=C(C=C1)CC(C#N)C=1C=NC=CC1 | C16H16N2O2
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 3-(4-methoxymethyloxyphenyl)-2-(3-pyridyl)propylamine | 4.98 g | COCOC1=CC=C(C=C1)CC(CN)C=1C=NC=CC1 | C16H20N2O2
